US04616013
Bromine (0.57 ml) was added dropwise during 15 minutes to a stirred solution of 5-carboxy-2-methylindan-1-one (2 g) in acetic acid (75 ml) at 35° C. The solution was stirred for a further 30 minutes then evaporated to low volume under reduced pressure and the residue was diluted with water to give 2-bromo-5-carboxy-2-methylindan-1-one, m.p. 203°-205° C. (from acetic acid).

reactant | Bromine | 0.57 ml | BrBr | Br2
reactant | 5-carboxy-2-methylindan-1-one | 2 g | C(=O)(O)C=1C=C2CC(C(C2=CC1)=O)C | C11H10O3
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 2-bromo-5-carboxy-2-methylindan-1-one | BrC1(C(C2=CC=C(C=C2C1)C(=O)O)=O)C | C11H9BrO3
